US04179277
19.5 g (0.1 mol) of 4,5-dichloro-imidazole-2-carbamide-oxime and 10.1 g (0.1 mol) of triethylamine were dissolved in 150 ml of dioxane. 14.05 g (0.1 mol) of benzoyl chloride were added dropwise to this solution at 15°-20° C. The mixture was stirred for a further 1 hour at room temperature and for 2 hours at 50° C. and was then introduced into 500 ml of water. The crystals which had separated out were filtered off, washed with water and dried. 18 g (60.2% of theory) of 4,5-dichloro-imidazole-2-carbamide-O-benzoyl-oxime were obtained. Melting point: 177°-178° C. (from toluene).

reactant | 4,5-dichloro-imidazole-2-carbamide-oxime | 0.1 mol, 19.5 g | ClC=1N=C(NC1Cl)C(N)=NO | C4H4Cl2N4O
reactant | triethylamine | 0.1 mol, 10.1 g | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.1 mol, 14.05 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 500 ml | O | H2O
solvent | dioxane | 150 ml | O1CCOCC1 | C4H8O2
product | 4,5-dichloro-imidazole-2-carbamide-O-benzoyl-oxime | 18 g, 60.2% | C(C1=CC=CC=C1)(=O)ON=C(N)C=1NC(=C(N1)Cl)Cl | C11H8Cl2N4O2
